US04772705
To an ice-cooled stirred solution of 5.45 g (0.033 mol) of 2-phenylpiperazine and 5.3 g (0.53 mol) of triethylamine in 580 ml of acetone was added dropwise over 20 minutes a solution of 4.8 g (0.033 mol) of methyl iodide in 20. ml of acetone. The resulting mixture was stirred at 0° C. for 1 h and then allowed to gradually warm to ambient temperature over 3 hours. The residue obtained upon concentration of the reaction mixture was dissolved in 200 ml of ether and treated with a solution of methanol and ether saturated with gaseous hydrochloric acid to give 4.5 g (54%) of 1-methyl-3-phenylpiperazine dihydrochloride as a white solid.

reactant | 2-phenylpiperazine | 0.033 mol, 5.45 g | C1(=CC=CC=C1)C1NCCNC1 | C10H14N2
reactant | triethylamine | 0.53 mol, 5.3 g | C(C)N(CC)CC | C6H15N
reactant | methyl iodide | 0.033 mol, 4.8 g | CI | CH3I
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | 580 ml | CC(=O)C | C3H6O
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | methanol | CO | CH4O
product | 1-methyl-3-phenylpiperazine dihydrochloride | 4.5 g, 54% | Cl.Cl.CN1CC(NCC1)C1=CC=CC=C1 | InChI=1S/C11H16N2.2ClH/c1-13-8-7-12-11(9-13)10-5-3-2-4-6-10;;/h2-6,11-12H,7-9H2,1H3;2*1H
